US08754229B2
Preparation of Ethyl 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-(methylthio)picolinate (Compound 88)
To a solution of (E)-methyl 3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-4-(((methylsulfonyl)oxy)imino)-1,4,5,6-tetrahydropyridine-2-carboxylate (200 mg, 0.44 mmol) in DMSO (1.4 mL) was added K2CO3 (181 mg, 1.3 mmol) followed by sodium thiomethoxide (93 mg, 1.3 mmol). After 10 min the reaction was quenched with 1 M HCl solution and then extracted with diethyl ether. The organics were washed with brine, dried with Na2SO4, filtered and purified by silica gel chromatography eluting with 30% Et2O in pentane to yielded to afford a brown solid (56 mg, 34%): mp 93-94° C.; 1H NMR (300 MHz, CDCl3) δ 7.67 (dd, J=8.6, 7.7 Hz, 1H), 7.22 (m, 1H), 7.11 (d, J=1.9 Hz, 1H), 5.16 (s, 2H), 4.47 (q, J=7.1 Hz, 2H), 3.96 (d, J=0.9 Hz, 3H), 2.30 (d, J=1.7 Hz, 3H), 1.43 (t, J=7.1 Hz, 3H); ESIMS m/z 369 ([M−H]−).

reactant | (E)-methyl 3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)-4-(((methylsulfonyl)oxy)imino)-1,4,5,6-tetrahydropyridine-2-carboxylate | 0.44 mmol, 200 mg | ClC/1=C(NC(C\C1=N/OS(=O)(=O)C)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OC | C15H15Cl2FN2O6S
reactant | K2CO3 | 1.3 mmol, 181 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | sodium thiomethoxide | 1.3 mmol, 93 mg | C[S-].[Na+]
reactant | DMSO | 1.4 mL | CS(=O)C | C2H6OS
product | Ethyl 4-amino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-(methylthio)picolinate | 56 mg, 34% | NC1=C(C(=NC(=C1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OCC)SC | C16H16ClFN2O3S
